US07906645B2
Water (5 ml), 10% palladium on carbon (900 mg) and ethanol (50 ml) were added to benzyl 4-{[(3R)-1-phenylethylpiperidin-3-yl]methyl}piperazine-1-carboxylate (950 mg) under an argon atmosphere. The mixture was stirred overnight under a hydrogen filled balloon. The catalyst was remove by filtration through celite and the filtrate concentrated in vacuo and azeotroped once with toluene to give 1-{[(3R)-1-phenylethylpiperidin-3-yl]methyl}piperazine as a yellow oil (650 mg).

reactant | Water | 5 ml | O | H2O
reactant | benzyl 4-{[(3R)-1-phenylethylpiperidin-3-yl]methyl}piperazine-1-carboxylate | 950 mg | C1(=CC=CC=C1)C(C)N1C[C@H](CCC1)CN1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C26H35N3O2
catalyst | palladium on carbon | 900 mg | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-{[(3R)-1-phenylethylpiperidin-3-yl]methyl}piperazine | 650 mg | C1(=CC=CC=C1)C(C)N1C[C@H](CCC1)CN1CCNCC1 | C18H29N3
